US09388189B2
(S)-2-(1-((6-Amino-5-(2-(trifluoromethyl)pyridin-4-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (60 mg, 0.14 mmol) were added 2-(trifluoromethyl)pyridin-4-ylboronic acid (39 mg, 0.20 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (11 mg, 0.01 mmol) and 204 μl of a 2M aqueous solution of cesium carbonate in dioxane (2.5 ml). The mixture was stirred under argon atmosphere at 90° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography using SP1® Purification System (0% to 70% hexane/AcOEt in 25 CV, 70% AcOEt in 10 CV) to give 33 mg (48% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.14 mmol, 60 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 2-(trifluoromethyl)pyridin-4-ylboronic acid | 0.20 mmol, 39 mg | FC(C1=NC=CC(=C1)B(O)O)(F)F | C6H5BF3NO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(2-(trifluoromethyl)pyridin-4-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 33 mg, 48% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C2=CC(=NC=C2)C(F)(F)F | C25H21F3N8O
